US06462158B1
n-Butylcyclopentadiene (12.22 g: 100 mmol) was dissolved in methyl ethyl ketone (10 mL), to which acrylic acid (7.93 g: 110 mmol) was added dropwise at 0° C. over 1 hour. The thus-obtained mixture was stirred at room temperature for 3 hours. Light components, such as the solvent and unreacted acrylic acid, were then distilled off under reduced pressure from the reaction mixture, whereby n-butyl-5-norbornene-2-carboxylic acid (15.9 g: 82 mmol) was obtained.

reactant | n-Butylcyclopentadiene | 100 mmol, 12.22 g | C(CCC)C1=CC=CC1 | C9H14
reactant | acrylic acid | 110 mmol, 7.93 g | C(C=C)(=O)O | C3H4O2
reactant | methyl ethyl ketone | 10 mL | C(C)C(=O)C | C4H8O
product | n-butyl-5-norbornene-2-carboxylic acid | 82 mmol, 15.9 g | C(CCC)C12C(CC(C=C1)C2)C(=O)O | C12H18O2
